US06156700
Preparation of 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (160 g, 0.369 mol), potassium carbonate (76.6 g, 0.554 mol) and iodomethane (34.5 mL, 0.554 mol) in N,N-dimethylformamide is stirred at room temperature for 4 hours, and poured onto ice. The resultant aqueous mixture is extracted with methylene chloride. The organic extract is diluted with hexanes, washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacua to obtain the title product as an orange foam (163 g, 98.8%) which is identified by NMR spectral analyses.

reactant | 3-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.369 mol, 160 g | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C20H14F3N3O3S
reactant | potassium carbonate | 0.554 mol, 76.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.554 mol, 34.5 mL | IC | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 163 g, 98.8% | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H16F3N3O3S
